US06355683B1
3-Bromobenzaldehyde (23.7 g, 128.2 mmol), N-acetyl glycine (10.0 g, 85.5 mmol) and sodium acetate (5.26 g, 64.1 mmol) in acetic anhydride (60 mL) was heated to reflux for 1 h. The reaction was cooled to room temperature and water (100 mL) was added. The resulting suspension was filtered and the solid was washed with water (2×50 mL). The remaining solid was dissolved in methylene chloride (100 mL), dried (MgSO4), filtered and concentrated in vacuo to give a yellow solid. The solid was suspended in dry MeOH (200 mL) and heated to reflux for 9 h. The reaction mixture was concentrated in vacuo to give a yellow solid. Recrystallization from EtOAc and petroleum ether gave methyl m-bromo-α-acetamidocinnamate as a yellow solid. MS (CI) m/z 298 (M++1 (Br=79), 100%), 300 (M++1 (Br=81), 100%). 13C NMR (50 MHz, d6-DMSO): δ23.3, 52.8, 122.5, 125.0, 128.06, 130.0, 130.2, 132.2, 132.3, 135.9, 165.4 and 168.8.

reactant | 3-Bromobenzaldehyde | 128.2 mmol, 23.7 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | N-acetyl glycine | 85.5 mmol, 10.0 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 64.1 mmol, 5.26 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | MeOH | 200 mL | CO | CH4O
product | methyl m-bromo-α-acetamidocinnamate | BrC=1C=C(C=C(C(=O)OC)NC(C)=O)C=CC1 | C12H12BrNO3
